US08957070B2
1-(Methoxymethyl)-7-nitro-2-(1,3-thiazol-2-yl)-1H-indole
To a suspension of sodium hydride (60% in oil, 0.47 g) in N,N-dimethylformamide (15 mL) was slowly added 7-nitro-2-(1,3-thiazol-2-yl)-1H-indole (2.21 g) at 0° C., and the mixture was stirred for 20 min. To the reaction mixture was added a solution of chloromethyl methyl ether (0.81 mL) in tetrahydrofuran (2 mL) at 0° C. over 20 min, and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (2.14 g, yield 82%) was obtained as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | sodium hydride | 0.47 g | [H-].[Na+]
reactant | 7-nitro-2-(1,3-thiazol-2-yl)-1H-indole | 2.21 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C11H7N3O2S
reactant | chloromethyl methyl ether | 0.81 mL | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(Methoxymethyl)-7-nitro-2-(1,3-thiazol-2-yl)-1H-indole | 2.14 g, yield 82% | COCN1C(=CC2=CC=CC(=C12)[N+](=O)[O-])C=1SC=CN1 | C13H11N3O3S
